MM8 (net9 net9 VSS VSS) nmos4
MM7 (net75 net9 VSS VSS) nmos4
MM3 (net20 VSS net16 VSS) nmos4
MM0 (net11 net60 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (net75 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM2 (net1005 net1005 VSS VSS) nmos4
MM10 (VB1 net1007 VSS VSS) nmos4
MM1 (net1005 VB1 VDD VDD) pmos4
MM0 (VB1 VB1 VDD VDD) pmos4
MM11 (net023 net024 net1007 VSS) nmos4
MM8 (net025 net010 net023 VSS) nmos4
MM9 (net024 net024 net023 VSS) nmos4
MM7 (net010 net010 net025 VSS) nmos4
MM2 (net1007 net1007 VSS VSS) nmos4
MM0 (VB2 net025 VSS VSS) nmos4
MM10 (net024 VB2 VDD VDD) pmos4
MM4 (net010 VB2 VDD VDD) pmos4
MM3 (net1007 VB2 VDD VDD) pmos4
MM1 (VB2 VB2 VDD VDD) pmos4
M23 (net63 VCLK2 VOUT1 VSS) nmos4
M22 (net60 VCLK3 net62 VSS) nmos4
M25 (net63 VCLK3 VSS VSS) nmos4
M24 (net62 VCLK2 VSS VSS) nmos4
M15 (VOUT1 net72 net68 VSS) nmos4
M14 (net72 VOUT1 net71 VSS) nmos4
M13 (net68 net75 net67 VSS) nmos4
M12 (net71 VSS net67 VSS) nmos4
M10 (net67 VCLK1 VSS VSS) nmos4
C2 (net60 net75) capacitor
C1 (net62 net63) capacitor
C0 (net60 VOUT1) capacitor
M21 (net71 VCLK1 VDD VDD) pmos4
M20 (net68 VCLK1 VDD VDD) pmos4
M19 (VOUT1 VCLK1 VDD VDD) pmos4
M18 (VOUT1 net72 VDD VDD) pmos4
M17 (net72 VOUT1 VDD VDD) pmos4
M16 (net72 VCLK1 VDD VDD) pmos4